Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
latex
 
Attending: ___.
 
Chief Complaint:
headache and weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ transgender female to male with
a history of ulcerative colitis, depression, eating disorder in
remission who presents with fever, headache and facial numbness. 

At the end of ___ the patient went on a camping trip and noticed
ticks on dog however none on him personally.  Denies any history
of noticeable rash during this.  2 days after the trip the
patient reports fevers as high as ___ for ___ days that 
resolved
without intervention.  Patient now reports facial numbness,
facial weakness, migratory headaches with accompanying
phonophobia and photophobia and dizziness for the past 2 to 3
days.  Endorses erythematous lesions on back that he believes is
due to dermatitis. He denies any chest pain, shortness of 
breath,
abdominal pain, nausea, vomiting.

In the ED, vital signs were within normal limits with a
temperature of 97.2 heart rate of 92 blood pressure 155/73
respiratory rate of 20 and satting 97% on room air he was given
lactated Ringer's and ceftriaxone. he underwent an LP
demonstrated pleiocytosis. CSF studies significant for 12
Leukocytes 77% percent lymphocytes, protein of 30 glucose of 58 
7
red blood cells Gram stain negative for microorganisms. 
Laboratories were significant for ALT of 98 alk phos of 170 Lyme
antibody positive.  White blood cell count of 12.4 neutrophilic
predominance of 77.5%, with platelet count of 639.  
… He was started on ceftriaxone initially 1 g then increased to 
2
g for meningitic dosing ID was consulted in the ED and agree 
with
current dosing of antibiotic.
 
Past Medical History:
Ulcerative colitis with multiple abdominal surgeries including
colon resection with J-pouch and takedown
Disorder now in remission
Female to male transgender on testosterone with bilateral double
mastectomy
 
Social History:
___
Family History:
Paternal side with UC, addiction, colon cancer, diabetes, CAD
 
Physical Exam:
Admission Physical Exam:
========================
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
HEENT: L sided facial drop
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: small erythematous patches on trunk, no evidence of target
appearance. 
NEURO: Alert, oriented, L sided facial drop, palsy of facial
nerve, intact sensation of V1-V3. No nuchal rigidity. 
PSYCH: pleasant, appropriate affect

Discharge Physical Exam:
========================
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
HEENT: L sided facial droop
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: rash resolved
NEURO: Alert, oriented, L sided facial droop involving forehead, 
palsy of facial
nerve, intact sensation of V1-V3. No nuchal rigidity. 
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
Admission Labs:
===============
___ 07:08PM BLOOD WBC-12.4* RBC-4.71 Hgb-11.5 Hct-37.1 
MCV-79* MCH-24.4* MCHC-31.0* RDW-15.5 RDWSD-44.4 Plt ___
___ 09:00PM BLOOD ___ PTT-35.3 ___
___ 07:08PM BLOOD Glucose-93 UreaN-7 Creat-0.7 Na-136 K-4.0 
Cl-97 HCO3-22 AnGap-17
___ 07:08PM BLOOD ALT-98* AST-34 AlkPhos-170* TotBili-0.4
___ 07:08PM BLOOD Albumin-4.2
___ 07:08PM BLOOD Lipase-10
___ 07:08PM BLOOD cTropnT-<0.01
___ 07:08PM BLOOD Lyme Ab-POS*

Imaging:
========
EKG: no evidence of heart block

Discharge Labs:
===============
___ 07:20AM BLOOD WBC-7.2 RBC-5.08 Hgb-12.3 Hct-39.8 
MCV-78* MCH-24.2* MCHC-30.9* RDW-16.0* RDWSD-45.2 Plt ___
___ 07:20AM BLOOD Glucose-80 UreaN-6 Creat-0.7 Na-142 K-4.4 
Cl-101 HCO3-27 AnGap-14
 
Brief Hospital Course:
Mr. ___ is a ___ transgender female to male with a 
history of ulcerative colitis, depression, eating disorder in 
remission who presented with fever, headache and facial numbness 
likely secondary to early disseminated Lyme with nervous system 
involvement. 

ACUTE/ACTIVE PROBLEMS:
# Bells Palsy 
# Lyme/Aseptic Meningitis
Presented with fever, headache, Bells palsy, and headache. He 
was also found to have multiple erythema migrans-like lesions 
over his back. He had recently gone camping on the ___ several 
weeks previously. No known tick bites but he reports that his 
dog was found to have ticks.
He underwent LP which revealed mild lymphocytic pleocytosis.
Lyme serologies were positive.
There was no evidence of heart block on EKG
He was started on IV ceftriaxone, then transitioned to PO 
doxycycline per ID recommendations.
Given fever, rash, Bells palsy, along with positive Lyme 
serologies, early disseminated Lyme with nervous system 
involvement was felt to be the likely diagnosis. Unclear if he 
had true CSF involvement given only mild lymphocytic pleocytosis 
and normal protein, though Lyme meningitis also covered by 
doxycycline as well (oral doxycycline now felt to be safe for 
treatment of Lyme meningitis).
There was concern for concurrent Anaplasma infection given 
elevated LFTs, though treatment would not change. Parasite smear 
was negative for Babesia.
He was discharged on doxycycline with plans for a 28 day course.

# Transaminitis
Mild transaminitis, likely secondary to Lyme and/or concurrent 
Anaplasma

# Depression: continued home Prozac and mirtazapine

> 30 minutes spent on discharge coordination and planning

Transitional Issues:
====================
- discharged on doxycycline 100mg BID for 28 day course
- ___ clinic follow up pending at discharge
- Lyme CSF studies, Anaplasma serologies, and Lyme confirmatory 
testing pending at time of discharge
- he should have repeat CBC and LFTs checked at PCP follow up
 
___ on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Mirtazapine 15 mg PO QHS depression 
2. FLUoxetine 60 mg PO QHS 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth twice a day 
Disp #*56 Tablet Refills:*0 
2.  FLUoxetine 60 mg PO QHS  
3.  Mirtazapine 15 mg PO QHS depression  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Early disseminated Lyme disease 
Bell's palsy secondary to Lyme 
Likely Lyme meningitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came in with fevers and headache along with a new rash. Your 
blood tests were positive for Lyme disease. We believe that the 
Lyme disease is affecting one of your facial nerves and also the 
lining around the brain.

You were initially treated with an IV antibiotic. We are sending 
you home on an antibiotic pill called doxycycline. You will need 
to take this medication twice a day for the next ___ days.

Doxycycline can sometimes make your skin more sensitive to the 
sun, so you should try to stay out of the sun as much as 
possible.

If you have any new or concerning symptoms (confusion, shortness 
of breath, palpitations), please return to the ED immediately.

It was a pleasure taking care of you, and we are happy that 
you're feeling better!
 
Followup Instructions:
___